reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C@@:4]([N:6]([H:14])[H:15])([H:10])[O:5]1)([H:7])([H:8])[H:9],91.70416988310792
[C:1]([C@@:2]1([H:11])[C:3]([H:13])([H:14])[N:7]([H:12])[C:6][C@@:4]1([C:5]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])[H:11])([H:8])([H:9])[H:10],58.1225578631187
[C:1]([C:2]([O:3][H:10])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],61.41296851399169
[C:1]([C:2]#[N:3])([H:4])([H:5])[H:6]>>[C:1](=[C:2]=[N:3][H:5])([H:4])[H:6],93.57509293937359
[C:1]([C@@:2]1([H:10])[O:3][C:4]([H:12])([H:13])[C:5][N:6]1[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],56.64572197161779
[C:1]([N+:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])([C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],63.68733583099278
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[O:3]=[C:4]([O:5][H:8])[N:6]([H:12])[H:13],46.5457291435557
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]2[C:4]([H:9])([H:13])[C:5]([H:14])=[N:6][C@:7]12[H:15],95.4973895638582
[C:1]([C@@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[N:5]([H:15])/[C:6]1=[N:7]\[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],83.91388044695204
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6][O:7][H:14])([H:12])[H:13])([H:8])([H:9])[H:10],80.9980785485671
[C:1]([C:2]([C:3]([C@@:4]1([H:15])[C:5]([H:16])([H:18])/[C:6]1=[N:7]\[H:17])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],72.1065510528686
[C:1]([C@@:2]([O:3][H:12])([C:4](/[C:5]([O:6][H:16])=[N:7]\[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],29.308169172481104
[C:1]([C:2]([C:3](=[O+:4][C-:5]([C:6]([H:16])([H:17])[H:18])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:15]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],4.150738044230309
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[C:5]=[N-:6])[H:9])([H:7])[H:8],70.6489498426073
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:9])([H:11])[H:12])([N:7]=[C:6]=[C:3]([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18])([H:8])[H:10],100.06237394014799
[C:1]([C:2]([C:3](=[C-:4])[N+:6]#[C:5])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],18.627622878580397
[C:1]([C:2](=[C:4]=[C:5]([C:3]([H:12])([H:13])[H:14])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],98.8575938843417
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6][O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10],81.04106294414349
[C@:1]12([H:7])[C@:2]3([H:8])[C@@:3]1([H:9])[N:4]1[C@@:5]2([H:10])[C@:6]31[H:11]>>[C@@:1]12([H:7])[C:2]([H:8])=[C:6]([H:11])[C@:5]1([H:10])[N:4]=[C:3]2[H:9],52.9238199168865
[O:1]([C:2]1=[C:6]([H:9])[C:7]([H:12])=[N+:5]=[C-:4][C:3]1([H:10])[H:11])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],60.7619091681247
[C:1](=[N:2]/[N:3]=[C:4](\[N:5]=[N:6]\[H:8])[H:10])([H:7])[H:9]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],25.8163144065948
[O:1]([O:4][C:3](=[C:2]([H:8])[H:9])[C:5](=[O:6])[H:10])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],55.492913284914096
[C-:1]([N+:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])[H:11])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],16.205781353059905
[C:2](=[C:3]1[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10].[O:1]([H:8])[H:11]>>[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],60.86122638632189
